US04457872
A mixture of 2 g of ethyl 5-chloro-2-hydroxyoxanilate, 50 ml of ethanol, and 8.2 ml of a 1 normal sodium hydroxide solution was stirred for one hour at 60° C. The reaction mixture was concentrated under reduced pressure and the crystals formed were recovered and dissolved in 100 ml of water. Activated carbon was added to the solution and after filtering the mixture, the filtrate was concentrated under reduced pressure to 10 ml. After adding 10 ml of water to the concentrate, the mixture was allowed to stand overnight and the crystals formed were recovered by filtration to provide 1.1 g of sodium 5-chloro-2-hydroxyoxanilate.

reactant | ethyl 5-chloro-2-hydroxyoxanilate | 2 g | ClC=1C=CC(=C(NC(C(=O)OCC)=O)C1)O | C10H10ClNO4
reactant | sodium hydroxide | [OH-].[Na+]
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | sodium 5-chloro-2-hydroxyoxanilate | 1.1 g | ClC=1C=CC(=C(NC(C(=O)[O-])=O)C1)O.[Na+] | InChI=1S/C8H6ClNO4.Na/c9-4-1-2-6(11)5(3-4)10-7(12)8(13)14;/h1-3,11H,(H,10,12)(H,13,14);/q;+1/p-1
